US05852016
A mixture of N-(3-amino-6-chloro-7-trifluoromethyl-2-methoxyquinoxalin-5-yl)methanesulphonamide (Preparation 20, 73 mg, 0.2 mmol) and anhydrous potassium carbonate (33 mg, 0.24 mmol) in acetone was stirred under reflux for 20 mins. Iodoethane (32 μl, 0.4 mmol) was added, and the mixture was heated for a further 2 h. Additional iodoethane (32 μl, 0.4 mmol) was added, and heating was continued for a further 4 h. The mixture was concentrated under reduced pressure and the residue was partitioned between water and ethyl acetate. The organic solution was dried (MgSO4), concentrated under reduced pressure, and the residue was purified by flash chromatography (gradient elution with dichloromethane/methanol) to give N-(3-amino-6-chloro-7-trifluoromethyl-2-methoxyquinoxalin-5-yl)-N-ethyl-methanesulphonamide (75 mg, 96%), as a white solid.

reactant | N-(3-amino-6-chloro-7-trifluoromethyl-2-methoxyquinoxalin-5-yl)methanesulphonamide | 0.2 mmol, 73 mg | NC=1C(=NC2=CC(=C(C(=C2N1)NS(=O)(=O)C)Cl)C(F)(F)F)OC | C11H10ClF3N4O3S
reactant | potassium carbonate | 0.24 mmol, 33 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Iodoethane | 0.4 mmol, 32 μl | ICC | C2H5I
reactant | iodoethane | 0.4 mmol, 32 μl | ICC | C2H5I
solvent | acetone | CC(=O)C | C3H6O
product | N-(3-amino-6-chloro-7-trifluoromethyl-2-methoxyquinoxalin-5-yl)-N-ethyl-methanesulphonamide | 75 mg, 96% | NC=1C(=NC2=CC(=C(C(=C2N1)N(S(=O)(=O)C)CC)Cl)C(F)(F)F)OC | C13H14ClF3N4O3S
